US08247401B2
Step B: tert-Butyl 3-(5-methylpyridin-2-yl)-5-[(R/S)2,2,2-trifluoro-1-hydroxyethyl]benzoate
To a solution of tert-butyl 3-bromo-5-(2,2,2-trifluoro-1-hydroxyethyl)benzoate (5.0 g, 14.1 mmol) and bis(tri-tert-butylphosphine)palladium(0) (0.22 g, 0.42 mmol) in dioxane (70 mL) was added 5-methyl-2-pyridylzinc bromide (0.5 M in THF; 56.3 mL, 28.2 mmol). The reaction mixture was heated to 70° C. After 1 h, additional 5-methyl-2-pyridylzinc bromide (0.5 M in THF; 10 mL, 5.0 mmol) and bis(tri-tert-butylphosphine)palladium(0) (40 mg, 0.078 mmol) were added. After 30 min, the reaction was concentrated. Saturated aqueous sodium potassium tartrate tetrahydrate and saturated aqueous sodium bicarbonate were added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→70% hexanes/ethyl acetate) gave the title compound. MS 368.2 (M+1).

reactant | tert-butyl 3-bromo-5-(2,2,2-trifluoro-1-hydroxyethyl)benzoate | 14.1 mmol, 5.0 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C(C(F)(F)F)O | C13H14BrF3O3
reactant | 5-methyl-2-pyridylzinc bromide | 28.2 mmol, 0.5 M, 56.3 mL | [Br-].CC=1C=CC(=NC1)[Zn+]
reactant | 5-methyl-2-pyridylzinc bromide | 5.0 mmol, 0.5 M, 10 mL | [Br-].CC=1C=CC(=NC1)[Zn+]
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.42 mmol, 0.22 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.078 mmol, 40 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-Butyl 3-(5-methylpyridin-2-yl)-5-[(R/S)2,2,2-trifluoro-1-hydroxyethyl]benzoate | CC=1C=CC(=NC1)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C(C(F)(F)F)O | C19H20F3NO3
